US07994185B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-3-sulfonamide hydrochloride
Following a procedure analogous to the procedure described in Example 282 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-3-sulfonamide (640 mg, 1.19 mmol) and ammonium hydroxide (15 ml), the title compound was obtained as a white solid (340 mg, 51.5%). 1HNMR (MEOD-d4): δ ppm 7.93-7.95 (d, J=6.0 Hz, 1H), 7.59-7.59 (d, J=2.0 Hz, 1H), 7.46-7.50 (dd, J1=7.8 Hz, J2=1.6 Hz, 1H), 7.24-7.28 (dd, J1=6.8 Hz, J2=1.6 Hz, 1H), 7.15-7.18 (t, J=7.8 Hz, 1H), 6.54-6.55 (d, J=2.4 Hz, 1H), 6.32-6.34 (d, J=6.0 Hz, 1H), 3.92-3.96 (dd, J1=11.6 Hz, J2=2.4 Hz, 1H), 3.80 (s, 3H), 3.45-3.51 (dd, J1=11.6 Hz, J2=2.0 Hz, 2H), 3.21-3.28 (m, 1H), 1.96-2.00 (dd, J1=12.8 Hz, J2=2.4 Hz, 2H), 1.75-1.85 (dd, J1=12.2 Hz, J2=4.4 Hz, 2H); MS: 516 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-3-sulfonamide | 1.19 mmol, 640 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=NN(C=C1)C)F | C22H20ClFN6O3S2
reactant | ammonium hydroxide | 15 ml | [OH-].[NH4+]
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-3-sulfonamide hydrochloride | Cl.NC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=NN(C=C1)C)F | InChI=1S/C22H22FN7O3S2.ClH/c1-30-10-6-17(28-30)35(31,32)29-15-4-2-3-14(18(15)23)19-20(16-5-9-25-22(24)26-16)34-21(27-19)13-7-11-33-12-8-13;/h2-6,9-10,13,29H,7-8,11-12H2,1H3,(H2,24,25,26);1H
